US08802713B2
2.1 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole was dissolved in 60 mL of dichloromethane, and 0.51 g of pyridine was added. To the obtained solution, 3.0 g of (perfluoro-n-propyl)phenyliodonium trifluoromethanesulfonate was slowly added, followed by stirring at room temperature for 1 hour. The solvent was distilled off under reduced pressure, a saturated salt solution was added, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 0.10 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,2,3,3,3-heptafluoropropoxy)pyrazole.

reactant | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole | 2.1 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)O | C14H13F4N3O2S
reactant | pyridine | 0.51 g | N1=CC=CC=C1 | C5H5N
reactant | (perfluoro-n-propyl)phenyliodonium trifluoromethanesulfonate | 3.0 g | FC(S(=O)(=O)[O-])(F)F.FC(C(C(F)(F)F)(F)F)(F)[I+]C1=CC=CC=C1
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,2,3,3,3-heptafluoropropoxy)pyrazole | 0.10 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(C(F)(F)F)(F)F)(F)F | C17H12F11N3O2S
